US08076325B2
Step 1: {N-([(7S)-3, 4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-methyl}-2,2,2-trifluoroacetamide
To 2.9 g (15 mmol) of {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}amine in 7.5 mL of methanol, at ambient temperature, there are added, all at once, 2.1 mL (15 mmol/1 eq.) of triethylamine, and then, dropwise, over 20 minutes, 2.3 mL (19 mmol/1.25 eq.) of ethyl trifluoroacetate. Stirring is carried out at ambient temperature for 2 hours, followed by evaporating to dryness. The residue is taken up in 100 mL of dichloromethane, and washing with 50 mL of 1N hydrochloric acid and then 50 mL of water and drying over magnesium sulphate are carried out. After filtration and concentration, the desired product is collected.

reactant | {[(7S)-3,4-dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]methyl}amine | 15 mmol, 2.9 g | COC=1C=C2C[C@@H](C2=CC1OC)CN | C11H15NO2
reactant | triethylamine | 15 mmol, 2.1 mL, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 19 mmol, 2.3 mL, 1.25 eq. | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | 7.5 mL | CO | CH4O
product | N-([(7S)-3, 4-Dimethoxybicyclo[4.2.0]octa-1,3,5-trien-7-yl]-methyl}-2,2,2-trifluoroacetamide | COC=1C=C2C[C@@H](C2=CC1OC)CNC(C(F)(F)F)=O | C13H14F3NO3
